*TB_SUN_TR_SKY130NM/TB_NCM
*----------------------------------------------------------------
* Include
*----------------------------------------------------------------
#ifdef Lay
.include ../../../work/lpe/INV_ZVT_R_lpe.spi
#else
.include ../../../work/xsch/INV_ZVT_R.spice
#endif

*-----------------------------------------------------------------
* OPTIONS
*-----------------------------------------------------------------
.option TNOM=27 GMIN=1e-15 reltol=1e-3

*-----------------------------------------------------------------
* PARAMETERS
*-----------------------------------------------------------------
.param TRF = 10p

.param AVDD = {vdda}

*-----------------------------------------------------------------
* FORCE
*-----------------------------------------------------------------
VSS  VSS  0     dc 0
VDD  VDD  VSS  pwl 0 0 1u 0.04
Vgate Vgate VSS  pwl 0 0 19u 0  20u 0.04 30u 0.04 31u 0  40u 0 50u 0.04
*-----------------------------------------------------------------
* DUT
*-----------------------------------------------------------------
.include ../xdut.spi

*----------------------------------------------------------------
* PROBE
*----------------------------------------------------------------
.save v(VDD) v(Vgate) v(Vout) i(VDD)


*----------------------------------------------------------------
* NGSPICE control
*----------------------------------------------------------------
.control
set num_threads=8
set color0=white
set color1=black
unset askquit

optran 0 0 0 1n 1u 0


tran 100n 50u 1p
write
quit


.endc

.end
